US04297355
To n-butanol (100 ml.) add 5-cyano-salicylaldehyde (6 g.), 2-thiobarbituric acid (6 g.) and methanesulfonic acid (10 ml.) With stirring, heat the mixture to reflux for 11/2 hours. Cool, filter, and wash the solid with isopropanol and ether to yield 7-cyano-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione.

reactant | 5-cyano-salicylaldehyde | 6 g | C(#N)C1=CC=C(C(C=O)=C1)O | C8H5NO2
reactant | 2-thiobarbituric acid | 6 g | N1C(=S)NC(=O)CC1=O | C4H4N2O2S
reactant | methanesulfonic acid | 10 ml | CS(=O)(=O)O | CH4O3S
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 7-cyano-(1H,3H,5H)-(1)-benzopyrano-(2,3-d)-pyrimidine-4-one-2-thione | C(#N)C=1C=CC2=C(CC3=C(NC(NC3=O)=S)O2)C1 | C12H7N3O2S
